US07229617B2
(S)-3-Methyl-N-[(R)-3-methyl-1-((1S,2S,6R,8S)-2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)-butyl]-2-[(S)-2-[2-(3-phenoxy-phenyl)-acetylamino]-3-(3,4,5-trimethoxy-phenyl)-propionylamino]-butyramide
The title compound is prepared from {(S)-2-Methyl-1-[(R)-3-methyl-1-((1S,2S,6R,8S)-2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)-butylcarbamoyl]-propyl}-carbamic acid tert-butyl ester by reiteration of the 2-step (deprotection/coupling) procedure described in example 1 but using (S)-2-tert-Butoxycarbonylamino-3-(3,4,5-trimethoxy-phenyl)-propionic acid and (3-Phenoxy-phenyl)-acetic acid (Trans World Chemicals, Inc.; Rockville, Md., USA) as the partners in each coupling reaction (step B, example 1), respectively. The title compound is obtained as a yellow foam; ES-MS: 812.4 [M+H]+; HPLC: single peak at tR=11.36 min (System 1); Rf=0.53 (CH2Cl2/MeOH, 95/5).

reactant | {(S)-2-Methyl-1-[(R)-3-methyl-1-((1S,2S,6R,8S)-2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)-butylcarbamoyl]-propyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H](C(C)C)C(N[C@@H](CC(C)C)B1O[C@]2([C@@H]3C([C@H](C[C@H]2O1)C3)(C)C)C)=O)=O | C25H45BN2O5
reactant | (S)-2-tert-Butoxycarbonylamino-3-(3,4,5-trimethoxy-phenyl)-propionic acid | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC1=CC(=C(C(=C1)OC)OC)OC | C17H25NO7
reactant | (3-Phenoxy-phenyl)-acetic acid | O(C1=CC=CC=C1)C=1C=C(C=CC1)CC(=O)O | C14H12O3
product | (S)-3-Methyl-N-[(R)-3-methyl-1-((1S,2S,6R,8S)-2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)-butyl]-2-[(S)-2-[2-(3-phenoxy-phenyl)-acetylamino]-3-(3,4,5-trimethoxy-phenyl)-propionylamino]-butyramide | CC([C@@H](C(=O)N[C@@H](CC(C)C)B1O[C@]2([C@@H]3C([C@H](C[C@H]2O1)C3)(C)C)C)NC([C@H](CC3=CC(=C(C(=C3)OC)OC)OC)NC(CC3=CC(=CC=C3)OC3=CC=CC=C3)=O)=O)C | C46H62BN3O9
